US06784167B2
HCl gas was bubbled into a solution of N-{2-[(4S)-2-oxo4-benzyl(1,3-oxazolidin-3-yl)]-2-oxoethyl}(tert-butoxy)-N-methylcarboxamide (7.2 g, 21 mmol) in Et2O (150 mL) over 30 min. The resulting white slurry was stirred for 2 h, allowed to warm to room temperature, and stirred for 2 h. A solution of HCl (1M in Et2O, 20 mL, 20 mmol, 3.6 equiv) was added and the reaction mixture was stirred overnight, then treated with TFA (10 mL), and stirred for 2 h. HCl gas was again bubbled into the mixture over 15 min, and the reaction was stirred for 3 h. The resulting mixture was concentrated under reduced pressure and the residue was triturated (100 mL of 50% EtOAc/hexanes). The resulting precipitate was filtered and washed with hexanes to give (4S)-3-[2-(methylamino)acetyl]-4-benzyl-1,3-oxazolidin-2-one (5.69 g, 96%) as a white solid: 1H NMR (CDCl3) δ 2.62 (br s, 3H), 2.91-3.04 (m, 2H), 4.22-4.44 (m, 4H), 4.65-4.73 (m, 1H), 7.22-7.34 (m, 5H), 9.26 (br s, 2H); HPLC ES-MS m/z (rel abundance) 249 (MH+, 100%).

reactant | HCl | Cl | ClH
reactant | N-{2-[(4S)-2-oxo4-benzyl(1,3-oxazolidin-3-yl)]-2-oxoethyl}(tert-butoxy)-N-methylcarboxamide | 21 mmol, 7.2 g | O=C1C(C[C@@H]2N(COC2)C(CN(C(=O)OC(C)(C)C)C)=O)C=CC=C1 | C18H26N2O5
reactant | HCl | 20 mmol, 1M, 20 mL, 3.6 equiv | Cl | ClH
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | (4S)-3-[2-(methylamino)acetyl]-4-benzyl-1,3-oxazolidin-2-one | 5.69 g, 96% | CNCC(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C13H16N2O3
